US06638934B2
To a solution of the above residue 4-carbobenzyloxy-l-(4-chloro-2-nitrophenyl)piperazine-2-carboxylic acid in 200 ml glacial acetic acid warmed to 60° C. was added iron powder (14 g) in portions. The reaction was heated at 60° C. for 3 h. The reaction was cooled to rt and 1N HCl was added. The resulting precipitate was filtered and dried. The crude material was dissolved in methylene chloride and passed through a plug of celite. The filtrate was concentrated to a dark red residue. This was purified by the Biotage 40i (4.0×15.0 cm column, load methylene chloride, elute 30-50% ethyl acetate/hexanes) to give 9-chloro-3-carbobenzyloxy-2,3,4,4a-tetrahydro-1H-pyrazino[1,2-a]-quinoxalin-5(6H)-one as an off-white solid (4.8 g, 37% yield over 3 steps). 1H NMR (CDCl3, 300 MHz) δ7.32-7.37 (m, 5H), 6.82-6.85 (m, 1H), 6.68-6.75 (m, 2H), 5.18 (m, 2H), 4.73 (m, 1H), 4.31 (m, 1H), 3.49-3.54 (m, 2H), 3.07 (m, 2H), 2.74-2.81 (m, 1H) ppm. MS (ESI) m/z=372 [M+H]+.

reactant | 4-carbobenzyloxy-l-(4-chloro-2-nitrophenyl)piperazine-2-carboxylic acid | C(=O)(OCC1=CC=CC=C1)N1CC(N(CC1)C1=C(C=C(C=C1)Cl)[N+](=O)[O-])C(=O)O | C19H18ClN3O6
reactant | HCl | 1N | Cl | ClH
solvent | acetic acid | 200 ml | C(C)(=O)O | C2H4O2
catalyst | iron | 14 g | [Fe] | Fe
product | 9-chloro-3-carbobenzyloxy-2,3,4,4a-tetrahydro-1H-pyrazino[1,2-a]-quinoxalin-5(6H)-one | 37% yield | ClC1=CC=C2NC(C3N(C2=C1)CCN(C3)C(=O)OCC3=CC=CC=C3)=O | C19H18ClN3O3
